US07732622B2
3-Hydroxy-4-methoxynaphtho[2,3-c]furan-1(3H)-one (50 mg, 0.22 mmol) and ethyl 4-aminophenylacetate (47 mg, 0.26 mmol) in dichloromethane (5 ml) were stirred at room temperature under nitrogen for 1 hour. Sodium triacetoxyborohydride (138 mg, 0.66 mmol) was added and stirring continued for 24 h. The reaction was adjusted to pH14 with sodium hydroxide solution (2N) and extracted with dichloromethane (3×5 ml). The combined extracts were evaporated under vacuum and the residue triturated with cyclohexane/ether to give ethyl[4-(4-methoxy-1-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl)phenyl]acetate as a white solid (45 mg, 54%).

reactant | 3-Hydroxy-4-methoxynaphtho[2,3-c]furan-1(3H)-one | 0.22 mmol, 50 mg | OC1C2=C(C(O1)=O)C=C1C=CC=CC1=C2OC | C13H10O4
reactant | ethyl 4-aminophenylacetate | 0.26 mmol, 47 mg | NC1=CC=C(C=C1)CC(=O)OCC | C10H13NO2
reactant | Sodium triacetoxyborohydride | 0.66 mmol, 138 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | ethyl[4-(4-methoxy-1-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl)phenyl]acetate | 45 mg, 54% | C(C)OC(CC1=CC=C(C=C1)N1CC=2C(=C3C(=CC2C1=O)C=CC=C3)OC)=O | C23H21NO4
